US07211573B2
a) (2S,3R)-2-tert-Butoxycarbonylamino-3-(3-fluoro-2-nitro-phenoxy)-butyric acid
In analogous manner to that described in example 5a), the reaction of (2S,3R)-2-tert-butoxycarbonylamino-3-hydroxy-butyric acid and 2,6-difluoro-nitrobenzene yielded (78% of theory) the title compound as a brown oil, MS m/e (%): 357.3 (M−H+, 100).

reactant | (2S,3R)-2-tert-butoxycarbonylamino-3-hydroxy-butyric acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)[C@@H](C)O | C9H17NO5
reactant | 2,6-difluoro-nitrobenzene | FC1=C(C(=CC=C1)F)[N+](=O)[O-] | C6H3F2NO2
product | (2S,3R)-2-tert-Butoxycarbonylamino-3-(3-fluoro-2-nitro-phenoxy)-butyric acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)[C@@H](C)OC1=C(C(=CC=C1)F)[N+](=O)[O-] | C15H19FN2O7
